US04438128
1-Phenoxy-3-[2-(purin-6-ylamino)-ethylamino]-propan-2-ol
4.5 g. Phenyl glycidyl ether and 14.2 g. 6-(2-aminoethylamino)-purine are stirred in 100 ml. dimethylformamide for 10 hours at 50° C. The reaction mixture is taken up in methylene chloride, shaken out with water, dried and purified chromatographically on a silica gel column in the manner described in Example 25. The product obtained by evaporation of the pure fractions is recrystallized from ethanol. There are obtained 2.3 g. (23% of theory) of the desired product in the form of colorless crystals; m.p. 169°-170° C., with bubble formation.

reactant | Phenyl glycidyl ether | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | 6-(2-aminoethylamino)-purine | NCCNC1=C2NC=NC2=NC=N1 | C7H10N6
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Phenoxy-3-[2-(purin-6-ylamino)-ethylamino]-propan-2-ol | O(C1=CC=CC=C1)CC(CNCCNC1=C2NC=NC2=NC=N1)O | C16H20N6O2
